US07435815B2
N,N-Diethyl-2-[(quinoline-8-sulfonyl)-p-tolyl-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine, p-toluidine and 8-quinolinesulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | 8-quinolinesulfonyl chloride | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
product | N,N-Diethyl-2-[(quinoline-8-sulfonyl)-p-tolyl-amino]-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C=1C=CC=C2C=CC=NC12)=O)CC | C22H25N3O3S
